US04048334
a. 1,1-Di-n-propyl-2-propyn-1-ol
To the acetylene solution in ammonia were added 23 g of finely divided sodium. The bubbling of acetylene was maintained for 1 hour after the introduction of the sodium. After that, 114 g (1 mol) of di-n-propyl ketone were added and the acetylene flow was maintained for 1 hour after which 500 ml of ether were added and the mixture was allowed to stand for 12 hours at room-temperature. It was then hydrolysed by adding damp ether followed by crushed ice. After acidification with 10% sulphuric acid, the ethereal phase was separated out, dried over magnesium sulphate and concentrated under reduced pressure.

reactant | acetylene | C#C | C2H2
reactant | sodium | [Na] | Na
reactant | di-n-propyl ketone | 1 mol, 114 g | C(CC)C(=O)CCC | C7H14O
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | ammonia | N | H3N
product | 1,1-Di-n-propyl-2-propyn-1-ol | C(CC)C(C#C)(O)CCC | C9H16O
